US07989444B2
2-Ethyl-7-[3-({4-methyl-5-[4-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}thio)propyl]-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (0.25 mmol) and 3-[(3-chloropropyl)thio]-4-methyl-5-[4-(trifluoromethyl)phenyl]-4H-1,2,4-triazole and was obtained as a faint yellow slightly hygroscopic solid (0.074 mmol).

reactant | 2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 0.25 mmol | C(C)C=1OC2=CC3=C(CCNCC3)C=C2N1 | C13H16N2O
reactant | 3-[(3-chloropropyl)thio]-4-methyl-5-[4-(trifluoromethyl)phenyl]-4H-1,2,4-triazole | ClCCCSC1=NN=C(N1C)C1=CC=C(C=C1)C(F)(F)F | C13H13ClF3N3S
product | 2-Ethyl-7-[3-({4-methyl-5-[4-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}thio)propyl]-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.C(C)C=1OC2=CC3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3=CC=C(C=C3)C(F)(F)F)C=C2N1 | InChI=1S/C26H28F3N5OS.ClH/c1-3-23-30-21-15-18-9-12-34(13-10-19(18)16-22(21)35-23)11-4-14-36-25-32-31-24(33(25)2)17-5-7-20(8-6-17)26(27,28)29;/h5-8,15-16H,3-4,9-14H2,1-2H3;1H
